US08609675B2
Step J—Synthesis of ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-chloropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4k)
To a 10-20 mL microwave vessel was charged ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4j, 2.94 g, 4.27 mmol), 6-chloropyridine-3-boronic acid pinacol ester (1.07 g, 4.48 mmol), K3PO4 (2.72 g, 12.81 mmol), and PdCl2(dppf)2.CH2Cl2 (349 mg, 0.43 mmol). To this was added 9:1 1,4-dioxane:H2O. The vial was flushed with argon, sealed, and stirred at 100° C. overnight. After 18 hours, the reaction was cooled to room temperature and diluted with DCM. The reaction was washed with water and the aqueous phase was extracted again with DCM. The combined organics were dried over Na2SO4 and the residue purified via silica gel chromatography to yield title compound as yellowish oil that crystallizes over time. Yield=1.93 g.

reactant | ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | 4.27 mmol, 2.94 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2I)CC2CCC(CC2)C(=O)OCC)COCC[Si](C)(C)C)(C)C | C28H49IN4O4Si2
reactant | 6-chloropyridine-3-boronic acid pinacol ester | 4.48 mmol, 1.07 g | ClC1=CC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C11H15BClNO2
reactant | K3PO4 | 12.81 mmol, 2.72 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | CH2Cl2 | 0.43 mmol, 349 mg | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf)2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-chloropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)Cl)CC2CCC(CC2)C(=O)OCC)COCC[Si](C)(C)C)(C)C | C33H52ClN5O4Si2
